Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Major Surgical or Invasive Procedure:
___ Coronary Cath with DES to LAD

attach
 
Pertinent Results:
ADMISSION LABS
================

___ 06:48PM BLOOD WBC-11.9* RBC-5.56 Hgb-15.5 Hct-47.0 
MCV-85 MCH-27.9 MCHC-33.0 RDW-12.0 RDWSD-36.6 Plt ___
___ 06:48PM BLOOD Plt ___
___ 06:53PM BLOOD ___ PTT-34.6 ___
___ 06:53PM BLOOD ___ PTT-34.6 ___
___ 06:00AM BLOOD ___ PTT-33.6 ___
___ 06:48PM BLOOD Glucose-81 UreaN-13 Creat-1.1 Na-139 
K-4.0 Cl-103 HCO3-20* AnGap-16
___ 06:00AM BLOOD Glucose-76 UreaN-11 Creat-1.1 Na-142 
K-4.5 Cl-102 HCO3-23 AnGap-17
___ 06:48PM BLOOD ALT-22 AST-22 LD(___)-249 AlkPhos-57 
TotBili-0.5
___ 12:57AM BLOOD ALT-19 AST-18 LD(___)-203 AlkPhos-54 
TotBili-0.6
___ 06:48PM BLOOD Albumin-4.7 Cholest-216*
___ 12:57AM BLOOD Albumin-4.3 Mg-2.3 Cholest-202*
___ 06:00AM BLOOD proBNP-868*
___ 06:48PM BLOOD Triglyc-93 HDL-48 CHOL/HD-4.5 
LDLcalc-149*

DISCHARGE LABS
==============

___ 06:50AM BLOOD WBC-8.5 RBC-5.12 Hgb-14.2 Hct-43.8 MCV-86 
MCH-27.7 MCHC-32.4 RDW-12.1 RDWSD-37.5 Plt ___
___ 06:00AM BLOOD ___ PTT-33.6 ___
___ 06:50AM BLOOD Glucose-80 UreaN-12 Creat-1.1 Na-144 
K-4.3 Cl-107 HCO3-21* AnGap-16
___ 06:50AM BLOOD Calcium-9.4 Phos-3.4 Mg-2.2

IMAGING
=======
___
CXR
IMPRESSION:  
  
No acute cardiopulmonary process. 

CATH ___
Single vessel coronary artery disease.
• Successful PCI with drug-eluting stent of the LAD coronary 
artery.

 
Brief Hospital Course:
=======
SUMMARY
=======
___ yo M with history of obesity, former smoker, HLD who 
presented with chest pain to PCP found to have abnormal ETT and 
PMIBI consistent with CAD of LAD likely missed MI. On transfer 
to ___ his cardiac biomarkers were negative and was without 
ECG changes, confirming missed MI.  On ___ he underwent 
coronary angiography and a 100% mid LAD occlusion was intervened 
upon with 1 DES.

===================
TRANSITIONAL ISSUES 
===================
New Medications: Ticagrelor 90mg twice daily, Metoprolol 
succinate 25mg daily, Lisinopril 2.5mg daily
Stopped Medications: none
Changed Medications: Atorvastatin was increased to 80mg from 
40mg 

[] Please ensure patient taking all medications, especially DAPT
[] Lifestyle modifications to be reinforced

============
ACUTE ISSUES
============
#Unstable Angina and subacute, missed MI s/p DES to mid LAD
#HFrEF (LVEF 40%)
Patient presenting with abnormal stress test following typical 
anginal symptoms with cardiac risk factors. Initially had 
positive ETT with some STE, followed by PMIBI consistent with 
CAD of LAD with prior MI and ___ ischemia. Had normal 
EKG in ___.  Unclear if MI was 2 weeks ago during his chest 
pain or if had another episode after his pMIBI. Currently chest 
pain free.  TTE w/ LVEF 40% suggestive of ischemic damage and 
coronary angio ___ showed 100% stenosis of mid LAD that was 
treated with 1 DES.  He was also found to have a 70% occlusion 
of the diagonal which was not intervened upon.  Patient was 
discharged on DAPT (ticag 90 BID/ASA 81 daily), metop succinate 
25mg daily, and lisinopril 2.5mg daily. His atorvastatin was 
switched to 80mg daily; note his T Chol was 202, Trig 85, HDL 
46, and LDL-calc 139. Patient should have follow up TTE in the 
future to assess if cardiac function is improved after PCI and 
medical management.

#pAFib (ChadsVasc 1 for reduced EF)
On telemetry prior to coronary angiogram, patient was found to 
have intermittent episodes of Afib w/o RVR.  Reports having 
palpitations for a few months prior to hospitalization and a 
frequent coffee drinker.  He should undergo Zio patch monitoring 
as an outpatient.  Low risk of CVA thus AC not indicated.

==============
CHRONIC ISSUES
==============
#Depression
Continued on home Fluoxetine.

#Hypothyroidism
Continued on home Levothyroxine.  TSH 1.4.

# CODE:  FCP
# CONTACT: HCP:  ___ ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 200 mcg PO 3X/WEEK (___) 
2. Levothyroxine Sodium 175 mcg PO 4X/WEEK (___) 
3. Aspirin 81 mg PO DAILY 
4. FLUoxetine 10 mg PO DAILY 
5. Atorvastatin 20 mg PO QPM 

 
Discharge Medications:
1.  Lisinopril 2.5 mg PO DAILY 
RX *lisinopril 2.5 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
2.  Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0 
3.  TiCAGRELOR 90 mg PO BID to prevent stent thrombosis 
RX *ticagrelor [Brilinta] 90 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0 
4.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
5.  Aspirin 81 mg PO DAILY  
6.  FLUoxetine 10 mg PO DAILY  
7.  Levothyroxine Sodium 200 mcg PO 3X/WEEK (___)  
8.  Levothyroxine Sodium 175 mcg PO 4X/WEEK (___)  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY
=======
Acute Myocardial Infarction
Heart Failure with Reduced Ejection Fraction
Paroxysmal Atrial Fibrillation

SECONDARY
=========
Depression
Hypothyroidism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at the ___ 
___!

WHY WAS I IN THE HOSPITAL?  
==========================  
- You were admitted because you had a chest pain concerning for 
a heart attack  
 
WHAT HAPPENED IN THE HOSPITAL?  
==============================  
-You were found to have had a heart attack. Your heart arteries 
were examined (cardiac catheterization) which showed a complete 
blockage of one of the arteries. This was opened by placing a 
tube called a stent in the artery. You were given medications to 
prevent future blockages. You also were found to have a blockage 
in another one of your arteries that was deemed not to be the 
cause of the heart attack.

WHAT SHOULD I DO WHEN I GO HOME?  
================================  
-Please go to your doctor appointments as directed and take all 
medications as prescribed.
- It is very important to take your aspirin and ticagrelor (also 
known as Brilinta) every day.
- These two medications keep the stents in the vessels of the 
heart open and help reduce your risk of having a future heart 
attack.
- If you stop these medications or miss ___ dose, you risk causing 
a blood clot forming in your heart stents and having another 
heart attack
- Please do not stop taking either medication without taking to 
your heart doctor.  
- You are also on other new medications to help your heart, such 
as metoprolol and lisinopril
- Your atorvastatin was increased to 80mg daily from 40mg daily
 
Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Sincerely,
Your ___ Healthcare Team

 
Followup Instructions:
___